US06313312B1
6-Methyl-3-(3-phenylpropyl)-6-[3-(1H-1,2,3-triazol-5-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one
To a solution of 6-methyl-3-(3-phenylpropyl)-6-{3-[5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl]phenyl}-3-azabicyclo[3.1.0]hexan-2-one (Preparation 38, 58.0 mg, 0.13 mmol) in ethanol (2 ml) was added potassium fluoride (8.3 mg, 0.14 mmol) and a drop of concentrated sulphuric acid. The mixture was heated at reflux for 4 hours and then stirred at room temperature for 16 hours. The solvent was removed in vacuo and the crude residue was absorbed onto silica. This material was then purified by silica column chromatography eluting first with hexane:ethyl acetate (1:1) and then increasing gradually to neat ethyl acetate. The desired title compound (32 mg, 66%) was isolated as a colourless oil.

reactant | 6-methyl-3-(3-phenylpropyl)-6-{3-[5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl]phenyl}-3-azabicyclo[3.1.0]hexan-2-one | 0.13 mmol, 58.0 mg | CC1(C2CN(C(C12)=O)CCCC1=CC=CC=C1)C1=CC(=CC=C1)C=1N=NNC1[Si](C)(C)C | C26H32N4OSi
reactant | potassium fluoride | 0.14 mmol, 8.3 mg | [F-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-Methyl-3-(3-phenylpropyl)-6-[3-(1H-1,2,3-triazol-5-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | 32 mg, 66% | CC1(C2CN(C(C12)=O)CCCC1=CC=CC=C1)C1=CC(=CC=C1)C1=CN=NN1 | C23H24N4O
